US05244890
To a solution of 1-methyl-4-(4-hydroxy-5-benzyloxy-2-pyridylcarbonyl)piperazine (4.71 g) in methanol (300 ml) was added 10 palladium-carbon (2.35 g) in a stream of nitrogen and the mixture was hydrogenated at atmospheric pressure for 20 minutes. After the catalyst was removed by filtration, the filtrate was evaporated to dryness. The residue was recyrstallized from methanol to give 1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)piperazine (1.32 g).

reactant | 1-methyl-4-(4-hydroxy-5-benzyloxy-2-pyridylcarbonyl)piperazine | 4.71 g | CN1CCN(CC1)C(=O)C1=NC=C(C(=C1)O)OCC1=CC=CC=C1 | C18H21N3O3
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium-carbon | 2.35 g | [C].[Pd]
product | 1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)piperazine | 1.32 g | CN1CCN(CC1)C(=O)C1=NC=C(C(=C1)O)O | C11H15N3O3
